US05220042
10 Grams of 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene was dissolved in 500 ml of tetrahydrofuran, then to this solution was added 7.01 ml (46.44 mM) of N,N,N',N'-tetramethylethylenediamine and the whole mixture was cooled to -78° C. in a dry ice-acetone bath. To this cooled mixture was added dropwise 29.1 ml of n-butyllithium (1.6M-hexane solution), then stirred for 30 minutes. Next, 26.4 ml (2.091M solution) of tetrahydrofuran solution of ethylene oxide and 0.5 ml of boron trifluoride-diethyl ether (BF3 ·Et2O were added to the reaction mixture. 10 Minutes after, the dry ice-acetone bath was removed from the reaction equipment, then 2 hours later, the reaction mixture was concentrated to obtain the residue and 500 ml of diethyl ether was added thereto, and washed 4 times with 200 ml of water, further washed 4 times with 200 ml of a saturated sodium chloride aqueous solution, next dried over anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the residue was treated by a silica gel column chromatography [diameter 6 cm×length 30 cm, eluent: ethyl acetate:n-hexane=(2:3), "Wakogel C-200"] to yield 8.5 g of 1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene. Colorless needless crystals. Melting point: 121°-123° C.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene | COC1=C(C=C(C(=C1)OCOC)OC)OCOC | C12H18O6
reactant | N,N,N',N'-tetramethylethylenediamine | 46.44 mM, 7.01 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6M, 29.1 ml | C(CCC)[Li]
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | boron trifluoride-diethyl ether | 0.5 ml | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.091M, 26.4 ml | O1CCCC1 | C4H8O
product | 1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene | 8.5 g | OCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C14H22O7
